US08669266B2
(vi) 4-[(S)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester
To a solution of 600 mg 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid in 60 ml DMF were added 279 μl DIPEA, 294 mg EDC and 234 mg HOBt. After 5 minutes 661 mg 4-[(S)-2-amino-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate were added and the mixture stirred for 48 h.

reactant | 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | 600 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)=O | C22H25N3O5
reactant | DIPEA | 279 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 234 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-[(S)-2-amino-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester | 661 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC=1N=NNN1)N)=O | C14H25N7O3
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | EDC | 294 mg
product | 4-[(S)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC=1N=NNN1)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C36H48N10O7
